US08242145B2
Step 1: {4-Hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester
To {4-hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid (1.5 g, 3.74 mmol) in MeOH was added hydrochloric acid (4N in 1,4-dioxane), and the reaction was stirred at 80° C. for 2 hours. The mixture was concentrated to dryness, and the residue was worked-up with EtOAc and saturated aqueous NaHCO3 to give the title compound.

reactant | {4-hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid | 3.74 mmol, 1.5 g | OC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O | C26H22F3NO6
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | MeOH | CO | CH4O
product | {4-Hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C27H24F3NO6
